US09353108B2
A) 2′,4′-Difluoro-3-hydroxybiphenyl-4-carbaldehyde
A mixture of 4-bromo-2-hydroxybenzaldehyde (7.5 g), (2,4-difluorophenyl)boronic acid (8.84 g), tris(dibenzylideneacetone)dipalladium (0) (1.367 g), 2M aqueous sodium carbonate solution (56.0 mL) and dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (1.53 g) in toluene (70 mL) was stirred at 100° C. under nitrogen atmosphere overnight. The mixture was diluted with ethyl acetate and water. The organic layer was separated and concentrated in vacuo. The residue was passed through a silica gel pad and concentrated in vacuo. The residue was crystallized from methanol-water (80 mL-20 mL) to give the title compound (8.50 g).

reactant | 4-bromo-2-hydroxybenzaldehyde | 7.5 g | BrC1=CC(=C(C=O)C=C1)O | C7H5BrO2
reactant | (2,4-difluorophenyl)boronic acid | 8.84 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 2M, 56.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 1.53 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 1.367 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2′,4′-Difluoro-3-hydroxybiphenyl-4-carbaldehyde | 8.50 g | FC1=C(C=CC(=C1)F)C1=CC(=C(C=C1)C=O)O | C13H8F2O2
